US04287200
2.0 g Of ethyl 2-methanesulfonyloxy-3-[4-(1-methylcyclohexylmethyloxy)phenyl]propionate and 760 mg. of thiourea are added to 20 ml of ethanol. The mixture is refluxed for 2 hours. To the mixture is added 10 ml of hydrochloric acid, and the mixture is further refluxed for 16 hours. After cooling, water is added to the mixture. The mixture is subjected to extraction with ethyl acetate. The extract is washed with water and dried. The ethyl acetate is distilled off to give 1.4 g of 5-[4-(1-methylcyclohexylmethyloxy)benzyl]thiazolidine-2,4-dione. Crystallization from 85% ethanol gives crystals melting at 130°-131° C.

reactant | ethyl 2-methanesulfonyloxy-3-[4-(1-methylcyclohexylmethyloxy)phenyl]propionate | 2.0 g | CS(=O)(=O)OC(C(=O)OCC)CC1=CC=C(C=C1)OCC1(CCCCC1)C | C20H30O6S
reactant | thiourea | NC(=S)N | CH4N2S
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | O | H2O
product | 5-[4-(1-methylcyclohexylmethyloxy)benzyl]thiazolidine-2,4-dione | 1.4 g | CC1(CCCCC1)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C18H23NO3S
